US06166006
To dichloromethane (1000 ml) was added at room temperature anhydrous magnesium sulfate (50.6 g) and then concentrated sulfuric acid (6.0 ml). The mixture was stirred at room temperature for 15 minutes, and to the mixture was added 4-[(benzyloxy)carbonyl]-4-methylaminobutyric acid (26.3 g) and then tert-butanol (50.5 ml). The mixture was sealed completely and stirred at room temperature for 18 hours. To the mixture was added saturated sodium hydrogen carbonate solution to dissolve all of the magnesium sulfate, and the mixture was stirred. The organic layer was separated, washed with saturated brine (400 ml) and dried with anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified with silica gel column chromatography (250 g, hexane:ethyl acetate=5:1) to give tert-butyl 4-[(benzyloxy)-carbonyl]-4-methylaminobutyrate (17.2 g, 53%).

reactant | magnesium sulfate | 50.6 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | sulfuric acid | 6.0 ml | S(O)(O)(=O)=O | H2O4S
reactant | 4-[(benzyloxy)carbonyl]-4-methylaminobutyric acid | 26.3 g | C(C1=CC=CC=C1)OC(=O)C(CCC(=O)O)NC | C13H17NO4
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tert-butanol | 50.5 ml | C(C)(C)(C)O | C4H10O
solvent | dichloromethane | 1000 ml | ClCCl | CH2Cl2
product | tert-butyl 4-[(benzyloxy)-carbonyl]-4-methylaminobutyrate | 17.2 g, 53% | C(C1=CC=CC=C1)OC(=O)C(CCC(=O)OC(C)(C)C)NC | C17H25NO4
